US07329656B2
To a stirred solution of 3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenylamine (121 mg, 0.289 mmol) in CH2Cl2/dimethylformamide (2.00/0.200 mL) was added 2-[(tert-butoxy)-N-methylcarbonylamino]acetic acid (54.6 mg, 0.289 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (111 mg, 0.578 mmol) and 4-dimethylaminopyridine (5.00 mg). The reaction mixture was stirred at room temperature for 10 h, then partitioned between CH2Cl2 (10 mL) and saturated NaHCO3 solution (10 mL) and the organic phase was separated and washed with water (10 mL), then brine (10 mL), dried over MgSO4 and concentrated in vacuo to give the crude product. Purification by flash column chromatography (eluent: CH2Cl2 then 3% methanol in CH2Cl2) gave 2-[(tert-butoxy)-N-methylcarbonylamino]-N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl]acetamide (84.7 mg, 50.1% yield) as a yellow solid.

reactant | 3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenylamine | 0.289 mmol, 121 mg | COC1=CC=C(C=C1)SC1=CC=C(C=C1)CN1CCC(CC1)C=1C=C(C=CC1C)N | C26H30N2OS
reactant | 2-[(tert-butoxy)-N-methylcarbonylamino]acetic acid | 0.289 mmol, 54.6 mg | C(C)(C)(C)ON(C(=O)C)CC(=O)O | C8H15NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.578 mmol, 111 mg | Cl.CN(CCCN=C=NCC)C
reactant | methanol | CO | CH4O
solvent | CH2Cl2 dimethylformamide | 0.200 mL | C(Cl)Cl.CN(C=O)C
catalyst | 4-dimethylaminopyridine | 5.00 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[(tert-butoxy)-N-methylcarbonylamino]-N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl]acetamide | 84.7 mg, 50.1% yield | C(C)(C)(C)ON(C(=O)C)CC(=O)NC1=CC(=C(C=C1)C)C1CCN(CC1)CC1=CC=C(C=C1)SC1=CC=C(C=C1)OC | C34H43N3O4S
